US05272192
Preparation of N-(n-dodecyl)melamine (Compound 1-A-1)
A mixture of 14.6 g (0.1 mol) of diaminochlorotriazine, 19.5 g (0.105 mol) of n-dodecylamine and 4.0 g (0.1 mol) of sodium hydroxide in 200 ml of water is refluxed for 5 hours. The solid formed is filtered off wich suction, washed until free of chloride and then treated with a mixture of methylene chloride/ether (1:1). The precipitate is filtered off and boiled in dimethylformamide. After filtration, the concentrated filtrate is poured into water with stirring. The precipitate formed is dried to constant weight. The yield is 65% of theory. The product contains 0.1 mol of hydrated water per mole of melamine and melts at 119° C.

reactant | diaminochlorotriazine | 0.1 mol, 14.6 g | NC1=C(C(=NN=N1)Cl)N | C3H4ClN5
reactant | n-dodecylamine | 0.105 mol, 19.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | sodium hydroxide | 0.1 mol, 4.0 g | [OH-].[Na+]
reactant | melamine | N1=C(N)N=C(N)N=C1N | C3H6N6
solvent | water | 200 ml | O | H2O
solvent | water | 0.1 mol | O | H2O
product | N-(n-dodecyl)melamine | yield is 65% | C(CCCCCCCCCCC)NC1=NC(=NC(=N1)N)N | C15H30N6
